US06187802B1
A solution of 2-bromo-1-[1-(4-chlorophenyl)cyclobutyl]ethanone (2.9 g) in acetone (25 ml) was added to a solution of 3,4,5,6-tetrahydropyrimidine-2-thiol (1.2 g) in acetone (150 ml), then the mixture was heated under reflux for 1 hour, and allowed to cool to ambient temperature. The resulting solid was collected by filtration and dried in vacuo at ambient temperature to give 1-[1-(4-chlorophenyl)cyclobutyl]-2-(3,4,5,6-tetrahydropyrimidin-2-ylthio)ethanone hydrobromide as a white solid (3.5 g), m.p. 205° C.

reactant | 2-bromo-1-[1-(4-chlorophenyl)cyclobutyl]ethanone | 2.9 g | BrCC(=O)C1(CCC1)C1=CC=C(C=C1)Cl | C12H12BrClO
reactant | 3,4,5,6-tetrahydropyrimidine-2-thiol | 1.2 g | N1=C(NCCC1)S | C4H8N2S
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 1-[1-(4-chlorophenyl)cyclobutyl]-2-(3,4,5,6-tetrahydropyrimidin-2-ylthio)ethanone hydrobromide | 3.5 g | Br.ClC1=CC=C(C=C1)C1(CCC1)C(CSC1=NCCCN1)=O | InChI=1S/C16H19ClN2OS.BrH/c17-13-5-3-12(4-6-13)16(7-1-8-16)14(20)11-21-15-18-9-2-10-19-15;/h3-6H,1-2,7-11H2,(H,18,19);1H
